US09290500B2
To a solution of tert-butyl-[({(3aR,4R,6aS)-2,2-dimethyl-6-[(2-{3-(trifluoromethylthio)phenyl}pyrazolo[1,5-a]pyrimidin-7-yl)amino]tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methoxy)sulfonyl]carbamate (4.0 g) in acetonitrile (20.0 mL) at 0° C. was added phosphoric acid (20.0 mL) while maintaining the temperature below 10° C. This mixture was warmed to ambient temperature and stirred for 4 hours. At this time HPLC analysis showed that <1% starting material or reaction intermediates remained. To the reaction was added ethyl acetate (20 mL) and water (20 mL). After this addition was complete saturated Na2CO3 (80.0 mL) was added until the pH was between 6-7. After stirring for 10 minutes the phases were separated and the aqueous layer was back extracted with ethyl acetate (20 mL). The organic layers were combined and dried with Na2SO4. The organic layer was then concentrated to 4 vol of ethyl acetate. The solution started to precipitate within 5 minutes. This mixture was stirred for 16 hours. The resulting white solids were collected using a filter over 5 minutes. The solid was dried in a vacuum oven under full vacuum overnight (35° C., 16 hours). This yielded (s.e.)-((1R,2R,3S,4R)-2,3-dihydroxy-4-(2-(3-(trifluoromethylthio)-phenyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)cyclopentyl)methyl sulfamate anhydrous Form 1. (2.85 g, 84%). XRPD data is shown in FIG. 1; DSC data is shown in FIG. 2; TGA is shown in FIG. 3; Raman data is shown in FIGS. 4, 5A, 6A and 7A.

reactant | tert-butyl-[({(3aR,4R,6aS)-2,2-dimethyl-6-[(2-{3-(trifluoromethylthio)phenyl}pyrazolo[1,5-a]pyrimidin-7-yl)amino]tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methoxy)sulfonyl]carbamate | 4.0 g | C(C)(C)(C)OC(NS(=O)(=O)OC[C@H]1CC([C@@H]2OC(O[C@@H]21)(C)C)NC2=CC=NC=1N2N=C(C1)C1=CC(=CC=C1)SC(F)(F)F)=O | C27H32F3N5O7S2
reactant | phosphoric acid | 20.0 mL | P(O)(O)(O)=O | H3O4P
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
reactant | Na2CO3 | 80.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 20.0 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
product | ((1R,2R,3S,4R)-2,3-dihydroxy-4-(2-(3-(trifluoromethylthio)-phenyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)cyclopentyl)methyl sulfamate | S(N)(OC[C@@H]1[C@H]([C@H]([C@@H](C1)NC1=CC=NC=2N1N=C(C2)C2=CC(=CC=C2)SC(F)(F)F)O)O)(=O)=O | C19H20F3N5O5S2
